US07605269B2
At 0° C., a solution of 3-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxy}-propan-1-ol (170 mg, 0.40 mmol) and DIPEA (0.11 mL, 0.64 mmol) in DCM (5 mL) is treated with methanesulfonyl chloride (0.04 mL, 0.48 mmol). The reaction mixture is stirred at 0° C. for 30 min, then at rt for 1 h before it is diluted with DCM (15 mL) and washed with 0.1 N aq. NaOH (20 mL) followed by 10% aq. citric acid solution (20 mL). The organic layer is dried over Na2SO4 and evaporated to dryness to give methanesulfonic acid 3-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxy}-propyl ester (185 mg) as a beige resin; LC-MS: tR=1.23 min, [M+1]+=503.20.

reactant | 3-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxy}-propan-1-ol | 0.40 mmol, 170 mg | CC1=C(OCCCO)C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C | C24H28N2O3S
reactant | DIPEA | 0.64 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.48 mmol, 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxy}-propyl ester | 185 mg | CC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C | C25H30N2O5S2
